US09359375B2
(R)-4-(1-amino-3-methoxy-1-oxopropan-2-ylamino)-5-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-methoxypropanamide (10 mg, 0.028 mmol) in EtOH (1 mL) and DMSO (0.5 mL), aq. 1N NaOH (0.5 mL, 0.50 mmol) and aq. H2O2 (50%, 0.5 mL) were added. The mixture was stirred at room temperature for 20 min. HOAc (0.5 mL) was added. The mixture was purified by HPLC to give the titled compound (9 mg). MS 368.2 (M+H); UV 219.3, 282.9, 302.6 nm.

reactant | (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-methoxypropanamide | 0.028 mmol, 10 mg | C(#N)C1=CC(=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)COC)F | C15H16FN5O2S
reactant | NaOH | 0.50 mmol, 1N, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | (R)-4-(1-amino-3-methoxy-1-oxopropan-2-ylamino)-5-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide | 9 mg | NC([C@@H](COC)NC1=CC(=C(C(=O)N)C=C1F)NC1=CC(=NS1)C)=O | C15H18FN5O3S
